US07799815B2
Preparation 17: 3-(5-methyl-2-thienyl)-1-(phenylmethyl)-2,5-dihydro-1H-pyrrole (P17)
The title compound can be prepared through a coupling palladium mediated reaction, e.g. starting from 2-bromo-5-methylthiophene and 1-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole. For example, to a solution of 2-bromo-5-methylthiophene (1.3 eq.) in THF, 1-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole (1 eq.), tetrakis(triphenylphosphine)palladium(0) (5% mol) and cesium fluoride (4 eq.) may be added at room temperature. The resulting mixture should be stirred at 80° C. for 1.5 hours. After cooling the solvent should be evaporated under reduced pressure and the residue partitioned between dichloromethane and sodium hydroxyde (1M). The organic phase should be evaporated under reduced pressure and the crude product purified by flash chromatography to give the title compound.

reactant | 2-bromo-5-methylthiophene | BrC=1SC(=CC1)C | C5H5BrS
reactant | 1-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole | C1(=CC=CC=C1)CN1CC(=CC1)B1OC(C(O1)(C)C)(C)C | C17H24BNO2
reactant | 2-bromo-5-methylthiophene | 1.3 eq. | BrC=1SC(=CC1)C | C5H5BrS
reactant | 1-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydro-1H-pyrrole | 1 eq. | C1(=CC=CC=C1)CN1CC(=CC1)B1OC(C(O1)(C)C)(C)C | C17H24BNO2
reactant | cesium fluoride | 4 eq. | [F-].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-methyl-2-thienyl)-1-(phenylmethyl)-2,5-dihydro-1H-pyrrole | CC1=CC=C(S1)C=1CN(CC1)CC1=CC=CC=C1 | C16H17NS
